US07312241B2
(3-Methoxy-4-nitro-phenyl)-(3,5-dimethoxy-phenyl)-methanol was prepared analogously to 3-(3-amino-4-methoxy-phenyl)-3-(3,4-dimethoxy-phenyl)-acrylonitrile using 3,5-dimethoxy-bromobenzene (4.4 g, 20.1 mmol), magnesium turning (1.0 g, 20.1 mmol) and 3-methoxy-4-nitro-benzaldehyde (3.0 g, 16.8 mmol) to afford (3-methoxy-4-nitro-phenyl)-(3,5-dimethoxy-phenyl)-methanol (3.9 g, 73%): 1H NMR (CDCl3) δ 7.79 (d, J=8 Hz, 1H), 7.22 (s, 1H), 7.00-6.99 (dd, J=2, 9.1 Hz, 1H), 6.48 (d, J=2 Hz, 2H), 6.40 (d, J=2 Hz, 1H), 5.75 (d, J=3 Hz, 1H), 3.96 (s, 3H), 3.77 (s, 6H), 2.45 (d, J=2 Hz, 1H).

reactant | 3-(3-amino-4-methoxy-phenyl)-3-(3,4-dimethoxy-phenyl)-acrylonitrile | NC=1C=C(C=CC1OC)C(=CC#N)C1=CC(=C(C=C1)OC)OC | C18H18N2O3
reactant | 3,5-dimethoxy-bromobenzene | 20.1 mmol, 4.4 g | COC=1C=C(C=C(C1)OC)Br | C8H9BrO2
reactant | magnesium | 20.1 mmol, 1.0 g | [Mg] | Mg
reactant | 3-methoxy-4-nitro-benzaldehyde | 16.8 mmol, 3.0 g | COC=1C=C(C=O)C=CC1[N+](=O)[O-] | C8H7NO4
product | (3-methoxy-4-nitro-phenyl)-(3,5-dimethoxy-phenyl)-methanol | 3.9 g, 73% | COC=1C=C(C=CC1[N+](=O)[O-])C(O)C1=CC(=CC(=C1)OC)OC | C16H17NO6
